US07612075B2
A suspension of [4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-piperazin-1-yl]-acetonitrile (1.2 g, 3.2 mmol) is heated with diisopropylethylamine (0.65 g, 5.0 mmol) in a solution of ethanol saturated with hydrogen sulfide gas for 4 hours. The reaction is cooled, filtered and washed with cold ethanol to provide 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-piperazin-1-yl]-thioacetamide. 1H NMR (300 MHz, DMSO-d6) δ9.71 (bs, 1H), 9.01 (bs, 1H), 8.35 (d, 1H), 8.21 (s, 1H), 8.08 (d, 1H), 7.59 (dd, 1H), 4.15 (s, 2H), 3.73 (s, 2H), 3.43 (s, 4H).

reactant | [4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-piperazin-1-yl]-acetonitrile | 3.2 mmol, 1.2 g | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CCN(CC2)CC#N)C1 | C14H14ClN3O2S2
reactant | diisopropylethylamine | 5.0 mmol, 0.65 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | hydrogen sulfide | S | H2S
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-piperazin-1-yl]-thioacetamide | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CCN(CC2)CC(=S)N)C1 | C14H16ClN3O2S3
